US08026234B2
Methyl 4-amino-2-fluoro-5-methoxybenzoate:
To an amount of 4-amino-2-fluoro-5-methoxybenzoic acid (4 g, 21.62 mmole) that was dissolved in DCM (40 ml) and MeOH (11 mL), was added TMS-diazomethane (16.2 mL, 32.43 mmole) slowly. The mixture was stirred at r.t for 30 mins. After the removal of solvent, the resulting tan solid (4.0 g, 93%) carried onto the next reaction without any purification. [M+H] calc'd for C9H10FNO3, 200. found 200.

reactant | 4-amino-2-fluoro-5-methoxybenzoic acid | 21.62 mmole, 4 g | NC1=CC(=C(C(=O)O)C=C1OC)F | C8H8FNO3
reactant | TMS-diazomethane | 32.43 mmole, 16.2 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 11 mL | CO | CH4O
product | Methyl 4-amino-2-fluoro-5-methoxybenzoate | NC1=CC(=C(C(=O)OC)C=C1OC)F | C9H10FNO3
